US04957928
29.1 g (0.1 mol) of N-(3-ethoxycarbonylpropyl)-N-[2-(chroman-3-yl)ethyl]-amine are dissolved in 200 ml of methanol, and then 10.5 g (0.1 mol) of triethylamine and 18.8 g (0.1 mol) of 1,2-dibromoethane are added to the solution. The reaction mixture is stirred for 16 hours at room temperature and then concentrated under a water-jet vacuum. The residue is taken up in diethyl ether and washed neutral with ice-water. The ethereal phase is dried over potassium carbonate and concentrated by evaporation. N-(3-ethoxycarbonylpropyl)-N-(2-bromoethyl)-N-[2-(chroman-3-yl)ethyl]amine is thus obtained in the form of an oil which can be used further in the crude state.

reactant | N-(3-ethoxycarbonylpropyl)-N-[2-(chroman-3-yl)ethyl]-amine | 0.1 mol, 29.1 g | C(C)OC(=O)CCCNCCC1COC2=CC=CC=C2C1 | C17H25NO3
reactant | triethylamine | 0.1 mol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 1,2-dibromoethane | 0.1 mol, 18.8 g | BrCCBr | C2H4Br2
solvent | methanol | 200 ml | CO | CH4O
product | N-(3-ethoxycarbonylpropyl)-N-(2-bromoethyl)-N-[2-(chroman-3-yl)ethyl]amine | C(C)OC(=O)CCCN(CCC1COC2=CC=CC=C2C1)CCBr | C19H28BrNO3
